US07834051B2
4-[(2S,3R)-3-cyclopropyl-3-hydroxy-2-methyl-5-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile
Using 4-iodo-2-(trifluoromethyl)benzonitrile (558 mg), (4R,5S)-4-cyclopropyl-4-hydroxy-5-methylpyrrolidin-2-one (350 mg), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (166 mg), tris(dibenzylideneacetone)dipalladium(0) (86 mg) and cesium carbonate (902 mg), and in the same manner as in Example 62, the title compound was obtained as a yellow powder (yield: 123 mg, 20%).

reactant | 4-iodo-2-(trifluoromethyl)benzonitrile | 558 mg | IC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F3IN
reactant | (4R,5S)-4-cyclopropyl-4-hydroxy-5-methylpyrrolidin-2-one | 350 mg | C1(CC1)[C@@]1(CC(N[C@H]1C)=O)O | C8H13NO2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 166 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 902 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 86 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[(2S,3R)-3-cyclopropyl-3-hydroxy-2-methyl-5-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile | C1(CC1)[C@]1([C@@H](N(C(C1)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)C)O | C16H15F3N2O2
